US06545175B1
Preparation of Succinic Acid 1-Methoxycarbonyl-ethyl Ester Methyl Ester (i)
Methyl lactate (14 mL, 0.147 moles), succinic anhydride (14.76 g, 0.147 moles), and 2 drops of concentrated sulfuric acid were mixed and heated to 70° C. for five hours. An NMR spectrum of a sample of the cooled reaction mixture showed quantitative conversion to succinic acid (ethyl-1-methoxycarbonyl) ester. Methanol (30 mL) and chloroform (20 mL) were added and heated to reflux in a soxhlet extractor containing silica gel in the receiver. The solution was refluxed for three hours, neutralized with CaCO3, filtered, and the volatile solvents removed under vacuum. The isolated yield of (i) was 29.56 g (98.5%).

reactant | Methyl lactate | 0.147 moles, 14 mL | C(C(O)C)(=O)OC | C4H8O3
reactant | succinic anhydride | 0.147 moles, 14.76 g | C1(CCC(=O)O1)=O | C4H4O3
reactant | Methanol | 30 mL | CO | CH4O
reactant | CaCO3 | C(=O)([O-])[O-].[Ca+2]
catalyst | sulfuric acid | 2 drops | S(O)(O)(=O)=O | H2O4S
solvent | chloroform | 20 mL | C(Cl)(Cl)Cl | CHCl3
product | Succinic Acid 1-Methoxycarbonyl-ethyl Ester Methyl Ester | COC(CCC(=O)OC(C)C(=O)OC)=O | C9H14O6
